US07375087B2
To a solution of 2-(tert-butoxycarbonylamino)-2-methylpropionic acid (10 g) in tetrahydrofuran (20 mL) were added 1-(benzyloxycarbonyl)piperazine (16.3 g), 1-hydroxybenzotriazole (8.02 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (11.4 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in a mixed solvent of n-hexane and ethyl acetate (1/1) (40 mL) at 60° C. with heating, and the solution was stirred at room temperature overnight. To the mixture was added the same solvent (30 mL), and the mixture was further stirred overnight. The precipitated crystals were collected by filtration, and washed with the same solvent and dried under reduced pressure to give 4-benzyloxycarbonyl-1-[2-(tert-butoxycarbonylamino)-2-methylpropionyl]piperazine (13.5 g). To a solution of the obtained 4-benzyloxycarbonyl-1-[2-(tert-butoxycarbonylamino)-2-methylpropionyl]piperazine (5 g) in tetrahydrofuran (30 mL) was added hydrochloric acid (4 mol/L 1,4-dioxane solution, 40 mL), and the mixture was stirred at room temperature overnight. The precipitated crystals were collected by filtration. The obtained crystals were dissolved in ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, and the organic layer was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (3.65 g).

reactant | 2-(tert-butoxycarbonylamino)-2-methylpropionic acid | 10 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | 1-(benzyloxycarbonyl)piperazine | 16.3 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 1-hydroxybenzotriazole | 8.02 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 11.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-benzyloxycarbonyl-1-[2-(tert-butoxycarbonylamino)-2-methylpropionyl]piperazine | 13.5 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(C)(C)NC(=O)OC(C)(C)C)=O | C21H31N3O5
